US06953866B2
It is disclosed that phenylhydroxylamine and aniline in the presence of concentrated HCl, HZSM-5, HY zeolites, Nafion, filtrol (acid clay), NaHSO4/SiO4, or montmorillonite yield p-aminodiphenylamine. In each case, the predominant isomer of aminodiphenylamine was the para isomer.

reactant | phenylhydroxylamine | C1(=CC=CC=C1)NO | C6H7NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | HCl | Cl | ClH
product | p-aminodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
